US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2-[3,4-(methylenedioxy)benzyl]benzo[b]thiophene-3-sulfonamide was prepared by the method of Example 41 using 4-bromo-3-methyl-5-aminoisoxazole (1.0 mmoles, 0.177 g), NaH (2.5 mmoles, 100 mg), 2-[3,4-(methylenedioxy)benzyl]benzo[b]thiophene-3-sulfonyl chloride (1.1 mmoles, 0.40 g) and THF (7 ml). Flash chromatography (50% ethyl acetate/hexanes) followed by recrystallization from chloroform and hexanes provided 0.23 g (45%) of a tan crystalline solid, m.p. 164°-165° C.

reactant | 4-bromo-3-methyl-5-aminoisoxazole | 1.0 mmoles, 0.177 g | BrC=1C(=NOC1N)C | C4H5BrN2O
reactant | NaH | 2.5 mmoles, 100 mg | [H-].[Na+]
reactant | 2-[3,4-(methylenedioxy)benzyl]benzo[b]thiophene-3-sulfonyl chloride | 1.1 mmoles, 0.40 g | C1OC=2C=C(CC3=C(C4=C(S3)C=CC=C4)S(=O)(=O)Cl)C=CC2O1 | C16H11ClO4S2
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2-[3,4-(methylenedioxy)benzyl]benzo[b]thiophene-3-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C=1C2=C(SC1CC1=CC3=C(C=C1)OCO3)C=CC=C2)C | C20H15BrN2O5S2
